US06211242B1
To a solution of 2-ethoxycarbonyl-N-(4-nitrobenzoyl)aniline (3.15 g) in N,N-dimethylformamide (30 ml) was added sodium hydride (60% in oil, 442 mg) and the solution was stirred at ambient temperature for 30 minutes. Iodomethane (1.56 g) was added to the solution and the mixture was stirred at ambient temperature for 4 hours. The solution was diluted with ethyl acetate and the solution was washed with successively with 1N hydrochloric acid, water and brine. The organic phase was dried over magnesium sulfate and the solvent was evaporated in vacuo to give an oil. The oil was solidified with diethyl ether to give 2-ethoxycarbonyl-N-methyl-N-(4-nitrobenzoyl)aniline (3.28 g) as a pale yellow powder.

reactant | 2-ethoxycarbonyl-N-(4-nitrobenzoyl)aniline | 3.15 g | C(C)OC(=O)C1=C(NC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=CC=C1 | C16H14N2O5
reactant | sodium hydride | 442 mg | [H-].[Na+]
reactant | Iodomethane | 1.56 g | IC | CH3I
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-ethoxycarbonyl-N-methyl-N-(4-nitrobenzoyl)aniline | 3.28 g | C(C)OC(=O)C1=C(N(C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C)C=CC=C1 | C17H16N2O5
